US06090836
STEP C: Preparation of Methyl 3-fluoro-4-(3-(7-propyl-3-trifluoromethyl-6-benz-[4,5]-isoxazoloxy)propyloxy)phenylacetate
Using the method in example 17 step D substituting methyl 3-fluoro-4-(3-bromopropyloxy)phenylacetate and 3-trifluoromethyl-7-propyl-6-hydroxybez-[4,5]-isoxazole as the starting materials, the titled compound was obtained.

reactant | methyl 3-fluoro-4-(3-bromopropyloxy)phenylacetate | FC=1C=C(C=CC1OCCCBr)CC(=O)OC | C12H14BrFO3
reactant | 3-trifluoromethyl-7-propyl-6-hydroxybez-[4,5]-isoxazole | FC(C1=NOC2=C1C=CC(=C2CCC)O)(F)F | C11H10F3NO2
product | Methyl 3-fluoro-4-(3-(7-propyl-3-trifluoromethyl-6-benz-[4,5]-isoxazoloxy)propyloxy)phenylacetate | FC=1C=C(C=CC1OCCCOC=1C=CC=2C(=NOC2C1CCC)C(F)(F)F)CC(=O)OC | C23H23F4NO5
